US05902803
18 ml of 1N sodium hydroxide solution are added, under an argon blanket, to a stirred mixture, at a temperature in the region of 20° C., of 1.75 g of ethyl 8-(2-ethoxycarbonylethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate, 220 ml of dioxane and 60 ml of water and stirring is continued for 6 hours. The reaction mixture is filtered, the solid is washed with 2×20 ml of dioxane and 30 ml of water are added to the solid. The solution obtained is acidified to pH 1 with 1N hydrochloric acid and the precipitate is filtered, washed with 2×30 ml of distilled water and then 2×30 ml of acetone and dried under vacuum (1 mm Hg; 0.13 kPa) in the region of 50° C. 0.9 g of 8-(2-carboxyethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid is obtained in the form of a beige solid melting above 290° C. (1H NMR spectrum in d6-DMSO, T=300K, δ in ppm (200 MHz): 2.60 (2H, t, J=6 Hz, CH2CO2H), 2.90 (2H, t, J=6 Hz, CH2), 4.00 (2H, s, CH2), 7.25 (1H, d, J=8 Hz, arom. CH), 7.45 (1H, s, arom. CH), 7.78 (1H, d, J=8 Hz, arom. CH), 8.50 (1H, s, imidazole H), 12.5 (3H, s, NHCO and 2CO2H)).

reactant | sodium hydroxide | 1N, 18 ml | [OH-].[Na+]
reactant | ethyl 8-(2-ethoxycarbonylethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate | 1.75 g | C(C)OC(=O)CCC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=C1 | C21H21N3O5
reactant | dioxane | 220 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 60 ml | O | H2O
product | 8-(2-carboxyethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid | 0.9 g | C(=O)(O)CCC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)O)=O)C2C=C1 | C17H13N3O5
